US08648068B2
11.1 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester
EDC (290 mg) was added into a solution of 4-[2-((S)-1-tert-butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (640 mg) and N-hydroxysuccinimide (218 mg) in anhydrous DMF (10 ml). The reaction was stirred at room temperature overnight. A further aliqout of EDC (58 mg) and N-hydroxysuccinimide (44 mg) were added and the reaction stirred for further 2 h. The DMF was removed in vacuo and the residue co-evaporated from toluene. The solid was portioned between EtOAc and water. The organic layer was separated and washed with brine. The combined organics were passed through a phase separator and concentrated in vacuo.

reactant | EDC | 290 mg
reactant | 4-[2-((S)-1-tert-butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 640 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H27FN4O5S
reactant | N-hydroxysuccinimide | 218 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | EDC | 58 mg
reactant | N-hydroxysuccinimide | 44 mg | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)S1)C | C28H30FN5O7S
